US07538123B2
(1) 6-(Allyloxy)-3,4-dihydronaphthalen-1(2H)-one
3.30 ml of allyl bromide was added to a mixture consisting of 5.62 g of 6-hydroxy-3,4-dihydroxynaphthalen-1(2H)-one, 5.27 g of potassium carbonate, and 60 ml of acetone. The obtained mixture was heated to reflux under nitrogen atmosphere overnight. The reaction solution was cooled to a room temperature, and the precipitate was removed by filtration. The solvent was removed under a reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate), so as to obtain 6.35 g of the subject compound.

reactant | allyl bromide | 3.30 ml | C(C=C)Br | C3H5Br
reactant | 6-hydroxy-3,4-dihydroxynaphthalen-1(2H)-one | 5.62 g | OC=1C=C2C(=C(CC(C2=CC1)=O)O)O | C10H8O4
reactant | potassium carbonate | 5.27 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 6-(Allyloxy)-3,4-dihydronaphthalen-1(2H)-one | 6.35 g | C(C=C)OC=1C=C2CCCC(C2=CC1)=O | C13H14O2
